US08236835B2
Synthesis of N-benzyl-2-(3-(2,5-difluorobenzyl)-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 2, making variation as required to use N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide in place of N-(4-fluorobenzyl)-4-methyl-2-(2-oxopyrrolidin-1-yl)thiazole-5-carboxamide to react with 2-(bromomethyl)-1,4-difluorobenzene in place of 1-(bromomethyl)-4-(trifluoromethyl)benzene, the title compound was obtained as a white solid in 32% yield: mp 144-145° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.37-7.22 (m, 5H), 7.02-6.81 (m, 3H), 6.01 (t, J=5.6 Hz, 1H), 4.56 (d, J=5.6 Hz, 2H), 4.32-4.20 (m, 1H), 4.03-3.94 (m, 1H), 3.47-3.37 (m, 1H), 2.90-2.73 (m, 2H), 2.63 (s, 3H), 2.12-1.98 (m, 1H), 1.96-1.75 (m, 2H), 1.64-1.45 (m, 1H); 13C NMR (75 MHz, CDCl3) δ 171.5, 162.6, 160.2, 158.6, 157.3, 156.9, 152.2, 137.9, 128.8, 127.9, 127.5, 119.6, 117.7, 116.3, 114.7, 47.9, 44.1, 43.0, 30.6, 24.9, 21.3, 17.3; MS (ES+) m/z 456.2 (M+1).

reactant | N-benzyl-4-methyl-2-(2-oxopiperidin-1-yl)thiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(CCCC1)=O)C | C17H19N3O2S
reactant | 2-(bromomethyl)-1,4-difluorobenzene | BrCC1=C(C=CC(=C1)F)F | C7H5BrF2
product | N-benzyl-2-(3-(2,5-difluorobenzyl)-2-oxopiperidin-1-yl)-4-methylthiazole-5-carboxamide | 32% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(C(CCC1)CC1=C(C=CC(=C1)F)F)=O)C | C24H23F2N3O2S
